US04273779
The solution of 13.7 g of 5-(3,4-dichlorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester in 35 ml of hot dimethylformamide is added all at once to the solution of 3.25 g of sodium borohydride in 150 ml of methanol while stirring at -20°. The mixture warms to 10° and the temperature is lowered by application of a bath to 0°. After one hour the reaction mixture is warmed to 35° for 10 minutes, cooled again to 0° and 1.5 ml of acetic acid and the solution of 6 ml 12 N hydrochloric acid in 45 ml of ice water is added. A solid separates, more ice and water are added to complete crystallization. The solid is collected, washed with cold water and recrystallized from methanol, to yield the 5-(3,4-dichlorobenzylamino)-pyridine-2-carboxylic acid methyl ester melting at 158°-161°.

reactant | 5-(3,4-dichlorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester | 13.7 g | COC(=O)C1=NC=C(C=C1)N=CC1=CC(=C(C=C1)Cl)Cl | C14H10Cl2N2O2
reactant | sodium borohydride | 3.25 g | [BH4-].[Na+]
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 12 N, 6 ml | Cl | ClH
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | methanol | 150 ml | CO | CH4O
solvent | water | O | H2O
product | 5-(3,4-dichlorobenzylamino)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)NCC1=CC(=C(C=C1)Cl)Cl | C14H12Cl2N2O2
